US05508293
Preparation of 6-amino-N-cyano-N'-(2-nitroxyethyl)-3-pyridinecarboximidamide
To a solution of 2-nitroxyethylamine hydrochloride (1.36 g, 9.54 mmol) in DMF (3.5 ml) was added sodium methoxide (470 mg, 8.7 mmol) followed by a solution of propyl N-cyano-6-amino-3-pyridinecarboximidate (355 mg, 1.74 mmol) in DMF (2 ml) described in Example 5 of Experimental Example 1, and the mixture was stirred at room temperature for 3 hours. After the reaction was completed, the reaction mixture was evaporated under reduced pressure. The residue was suspended in water and extracted with chloroform. The chloroform layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue thus obtained was purified by silica gel column chromatography with a mixed solvent of methanol and chloroform as an eluent to give the title compound (284 mg, yield 74%) as colorless crystals.

reactant | 2-nitroxyethylamine hydrochloride | 9.54 mmol, 1.36 g | Cl.O([N+](=O)[O-])CCN
reactant | sodium methoxide | 8.7 mmol, 470 mg | C[O-].[Na+]
reactant | propyl N-cyano-6-amino-3-pyridinecarboximidate | 1.74 mmol, 355 mg | C(#N)N=C(OCCC)C=1C=NC(=CC1)N | C10H12N4O
solvent | DMF | 3.5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 6-amino-N-cyano-N'-(2-nitroxyethyl)-3-pyridinecarboximidamide | 284 mg, yield 74% | NC1=CC=C(C=N1)C(NC#N)=NCCO[N+](=O)[O-] | C9H10N6O3
